US07067517B2
N-(6-Hydroxy-pyridin-3-yl)-4-trifluoromethyl-benzamide
Starting from 4-trifluoromethylbenzoyl chloride (2.09 g, 10.0 mmol) and using the procedure as described for the preparation of 4-Chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide yielded the title compound, which was used without further purification.

reactant | 4-trifluoromethylbenzoyl chloride | 10.0 mmol, 2.09 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 4-Chloro-N-(6-hydroxy-pyridin-3-yl)-benzamide | ClC1=CC=C(C(=O)NC=2C=NC(=CC2)O)C=C1 | C12H9ClN2O2
product | N-(6-Hydroxy-pyridin-3-yl)-4-trifluoromethyl-benzamide | OC1=CC=C(C=N1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C13H9F3N2O2
